US08003647B2
1-(5-Formylfuran-2-yl)-1H-indole-3-carbonitrile
A suspension of 3-cyanoindole (0.14 g), 5-bromo-2-furaldehyde (0.18 g), and cesium carbonate (0.39 g) in N,N-dimethylformamide (3 mL) was stirred at room temperature or 3 hours. This reaction mixture was heated at 50° C., stirred for 2 hours. After cooling to ambient, water was added to this reaction mixture. This mixture was extracted with ethyl acetate, and this organic layer was washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=2/1) to give the title compound (0.086 g).

reactant | 3-cyanoindole | 0.14 g | C(#N)C1=CNC2=CC=CC=C12 | C9H6N2
reactant | 5-bromo-2-furaldehyde | 0.18 g | BrC1=CC=C(O1)C=O | C5H3BrO2
reactant | cesium carbonate | 0.39 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 1-(5-Formylfuran-2-yl)-1H-indole-3-carbonitrile | 0.086 g | C(=O)C1=CC=C(O1)N1C=C(C2=CC=CC=C12)C#N | C14H8N2O2
